US08017610B2
(106g) (2S)-2-(3-{5-[(5S)-5-Ethyl-4,5-dihydro-1,3-oxazol-2-yl]-1H-pyrrol-2-yl}-5-{[5-(methylsulfonyl)pyrazin-2-yl]oxy}phenoxy)propan-1-ol
2-(3-{5-[(5S)-5-Ethyl-4,5-dihydro-1,3-oxazol-2-yl]-1H-pyrrol-2-yl}-5-{[(2S)-1-methoxypropan-2-yl]oxy}phenoxy)-5-(methylsulfonyl)pyrazine (860 mg, 1.72 mmol) synthesized in Example (1060 was dissolved in methylene chloride (20 mL), and boron tribromide (1.0 mol/L methylene chloride solution, 2.50 mL, 2.50 mmol) was added dropwise at −78° C., followed by stirring at room temperature for 2 hours under nitrogen atmosphere. To this reaction solution, a saturated aqueous sodium hydrogencarbonate solution (20 mL) was added, and extraction was carried out with methylene chloride (20 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: methanol/methylene chloride=2%-4%) to afford the desired compound (764 mg, yield 91%) as a yellow solid.

reactant | 2-(3-{5-[(5S)-5-Ethyl-4,5-dihydro-1,3-oxazol-2-yl]-1H-pyrrol-2-yl}-5-{[(2S)-1-methoxypropan-2-yl]oxy}phenoxy)-5-(methylsulfonyl)pyrazine | 1.72 mmol, 860 mg | C(C)[C@H]1CN=C(O1)C1=CC=C(N1)C=1C=C(OC2=NC=C(N=C2)S(=O)(=O)C)C=C(C1)O[C@H](COC)C | C24H28N4O6S
reactant | boron tribromide | 2.50 mmol, 1.0 mol/L, 2.50 mL | B(Br)(Br)Br | BBr3
reactant | sodium hydrogencarbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-(3-{5-[(5S)-5-Ethyl-4,5-dihydro-1,3-oxazol-2-yl]-1H-pyrrol-2-yl}-5-{[5-(methylsulfonyl)pyrazin-2-yl]oxy}phenoxy)propan-1-ol | 764 mg, yield 91% | C(C)[C@H]1CN=C(O1)C1=CC=C(N1)C=1C=C(O[C@H](CO)C)C=C(C1)OC1=NC=C(N=C1)S(=O)(=O)C | C23H26N4O6S
